US04508906
Using the procedure of Reynolds and Hauser, Org. Syn. Coll. Vol 3, a mixture of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-oxopentanoate (1.51 g), benzene (15 ml) and aniline (0.5 g) is azeotropically distilled. The reaction product is purified using a florisil column and eluting with hexane/ethylacetate (9:1) to yield (fractions 2, 3 and 4) ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-phenylamino-2-pentenoate.

reactant | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-oxopentanoate | 1.51 g | FC(C1=CC=C(OC2=CC=C(OC(C(CC(=O)OCC)=O)C)C=C2)C=C1)(F)F | C20H19F3O5
reactant | aniline | 0.5 g | NC1=CC=CC=C1 | C6H7N
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-phenylamino-2-pentenoate | FC(C1=CC=C(OC2=CC=C(OC(C(=CC(=O)OCC)NC3=CC=CC=C3)C)C=C2)C=C1)(F)F | C26H24F3NO4
